US07960395B2
c) (1S)-1-(3-Fluoro-pyridin-2-yl)ethanol
(1S)-1-(6-Bromo-3-fluoro-pyridin-2-yl)ethanol (1.3 g, 5.9 mmol), triethylamine (1.6 mL, 11.5 mmol) and palladium on carbon (0.64 g, 0.34 mmol) were mixed in DCM (25 mL). The flask was evacuated/filled with hydrogen gas in 4 cycles and then left at 2.5 atm pressure hydrogen gas at room temperature for 24 h. The mixture was filtered and the solid washed with DCM. The filtrate was washed with water and Brine and dried over sodium sulphate and concentrated in vacuo. The crude product was purified by flash column chromatography (eluent DCM:methanol gradient) to yield 0.54 g (65% yield) of the title compound.

reactant | (1S)-1-(6-Bromo-3-fluoro-pyridin-2-yl)ethanol | 5.9 mmol, 1.3 g | BrC1=CC=C(C(=N1)[C@H](C)O)F | C7H7BrFNO
reactant | triethylamine | 11.5 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.34 mmol, 0.64 g | [Pd] | Pd
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (1S)-1-(3-Fluoro-pyridin-2-yl)ethanol | 0.54 g, 65% yield | FC=1C(=NC=CC1)[C@H](C)O | C7H8FNO
